US04853389
Step (10) Preparation of N-[[(1-Methylethyl)amino]carbonyl]-4-(methylsulfinyl)-2-amino-5-pyrimidinesulfonamide
2-Amino-N-[[(1-methylethyl)amino]carbonyl]-4-(methylthio)-5-pyrimidinesulfonamide (3.0 g, 9.84 mmol) was dissolved in dry (freshly distilled from sodium/benzophenone) THF (60 mL) and m-chloroperbenzoic acid (MCPBA) (2.55 g, 11.81 mmol, 80% 1.2 eq) was added as a solid. The reaction turned yellow and a white solid precipitated out of solution. After 30 minutes the reaction was diluted with ethyl ether (60 mL) and the white solid was filtered, washed with THF, then with ether three times and air dried for 2 hours, to yield 2.64 g (8.22 mmol, 84%) of product, m.p. 140° C.(dec.). The product was unstable to heat but could be stored under nitrogen in the freezer for weeks.

reactant | 2-Amino-N-[[(1-methylethyl)amino]carbonyl]-4-(methylthio)-5-pyrimidinesulfonamide | 9.84 mmol, 3.0 g | NC1=NC=C(C(=N1)SC)S(=O)(=O)NC(=O)NC(C)C | C9H15N5O3S2
reactant | sodium benzophenone | [Na].C(C1=CC=CC=C1)(=O)C1=CC=CC=C1
reactant | m-chloroperbenzoic acid | 11.81 mmol, 2.55 g, 1.2 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | N-[[(1-Methylethyl)amino]carbonyl]-4-(methylsulfinyl)-2-amino-5-pyrimidinesulfonamide | 8.22 mmol, 2.64 g, 84% | CC(C)NC(=O)NS(=O)(=O)C=1C(=NC(=NC1)N)S(=O)C | C9H15N5O4S2
